US07678929B2
42.4 g (0.33 mol) of 2,3-difluorophenol are initially introduced in 1.2 l of THF together with 50.0 ml (0.34 mol) of 1-octyn-3-ol and 94.1 g (0.36 mol) of triphenylphosphine, and a solution of 76.1 ml (0.39 mol) of DIAD in 100 ml of THF is added dropwise. After 19 h at 20° C., the mixture is diluted with MTBE, and the batch is washed with water. The aqueous phase is extracted with MTBE, and the combined organic phases are washed with sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, 1-chlorobutane), giving 1-(1-ethynylhexyloxy)-2,3-difluorobenzene as a colourless oil.

reactant | 2,3-difluorophenol | 0.33 mol, 42.4 g | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | 1-octyn-3-ol | 0.34 mol, 50.0 ml | C#CC(CCCCC)O | C8H14O
reactant | triphenylphosphine | 0.36 mol, 94.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.39 mol, 76.1 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.2 l | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 1-(1-ethynylhexyloxy)-2,3-difluorobenzene | C(#C)C(CCCCC)OC1=C(C(=CC=C1)F)F | C14H16F2O
